US06528543B1
A solution 3-cyclopentyl-2-(4-fluoro-3-trifluoromethyl-phenyl)-propionic acid (304 mg, 1.0 mmol) in methylene chloride (10 mL) and N,N-dimethylformamide (1 drop) was cooled to 0° C. and then treated with a 2.0M solution of oxalyl chloride in methylene chloride (1.5 mL, 3.0 mmol). The reaction was stirred for 30 min at 0° C. At this time, 1,1,1,3,3,3-hexamethyldisilazane (2.0 mL, 9.5 mmol) was added to the reaction mixture. The reaction was allowed to slowly warm to 25° C. and then stirred at 25° C. for 16 h. The reaction mixture was then treated with methanol (3 mL) and diluted with methylene chloride (35 mL). The resulting mixture was washed with a 5% aqueous sulfuric acid solution (2×10 mL), water (1×25 mL), and a saturated aqueous sodium chloride solution (3×25 mL). The organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo to afford 3-cyclopentyl-2-(4-fluoro-3-trifluoromethyl-phenyl)-propionamide (333 mg, 92.5%) as a pale yellow oil: EI-HRMS m/e calcd for C15H17F4NO (M+) 303.1246, found 303.1252.

reactant | 3-cyclopentyl-2-(4-fluoro-3-trifluoromethyl-phenyl)-propionic acid | 1.0 mmol, 304 mg | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)F)C(F)(F)F | C15H16F4O2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 9.5 mmol, 2.0 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | methanol | 3 mL | CO | CH4O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | methylene chloride | 35 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3.0 mmol, 1.5 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-2-(4-fluoro-3-trifluoromethyl-phenyl)-propionamide | 333 mg, 92.5% | C1(CCCC1)CC(C(=O)N)C1=CC(=C(C=C1)F)C(F)(F)F | C15H17F4NO
